US03959475
1'-Benzyl-1,3-dihydro-3-p-fluorophenyl-6-methoxyspiro[isobenzofuran-1,4'-piperidine]
By following the manipulative procedure described above in Example 45, 2-bromo-4'-fluoro-4-methoxybenzhydryl methyl ether and 1-benzyl-4-piperidone are reacted to produce a white solid, m.p. 86°-88°, form heptane.

reactant | 2-bromo-4'-fluoro-4-methoxybenzhydryl methyl ether | COC(C1=C(C=C(C=C1)OC)Br)C1=CC=C(C=C1)F | C15H14BrFO2
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | heptane | CCCCCCC | C7H16
product | 1'-Benzyl-1,3-dihydro-3-p-fluorophenyl-6-methoxyspiro[isobenzofuran-1,4'-piperidine] | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=C(C=C12)OC)C1=CC=C(C=C1)F | C26H26FNO2
